Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Nsaids / Lithium
 
Attending: ___.
 
Chief Complaint:
Lumbar wound infection
 
Major Surgical or Invasive Procedure:
___: wound washout

 
History of Present Illness:
___ year old female s/p L3/4 laminectomy/discectomy w/
extension of prior L4/5 fusion to L3 on ___ by Dr. ___.
Her post op course was complicated by hematoma formation which
required wound exploration/reclosure at the bedside in the PACU
by Dr. ___. She presented to clinic today for a wound check
and was found to have wound swelling as well as redness and
serosanguinous drainage.  She was subsequently sent to the ED. 
She has been at an outpatient rehab facility since her discharge
on ___.  She has been reportedly febrile.  She was getting
keflex x 8 doses at the rehab facility.  She is a poor historian
but she does endorse back pain with no increase in leg weakness.
However, she feels globally weak.  She takes oral dilaudid for
pain.  She has no bowel/bladder dysfunction.  She denies cough 
or
feeling ill but was satting into the ___'s on RA in the ED.  She
does have a history of significant COPD with low O2 sats in the
past. She denies cough.  

 
Past Medical History:
- Allergies  
- COPD  
- Fatty liver  
- Bipolar, schizoaffective disorder  
- Breast CA  
- Multiple Sclerosis  
- Chronic low back pain  
- Urinary retention  
Past Surgical History:  
- Modified mastectomy  
- Hysterectomy  
- Back surgery for ruptured disc, s/p L TKA ___  

 
Social History:
___
Family History:
Mother had heart problems and father had mesothelioma.  

 
Physical Exam:
ON ADMISSION:
Tmax: 101.4 Tcurrent 98.7  BP: 104-155/59-101   HR:80-90's   R
___  O2Sats 82-96% on RA, 96% O2 NC
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL        EOMs intact
Neuro:
Mental status: Awake and alert but inattentive, somewhat
uncooperative with exam, normal affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___   G
R    Grossly normal in bed-->    5     5  4     4     4     5   

Sensation: Intact to light touch of BLE's

Lumbar Wound - Staples and sutures in place.  There is erythema
at the bottom ___ of incision with minimal serosanguinous
drainage.  Mild edema.  Superficial dehisence at inferior aspect
of incision.

On discharge:
Vitals: 98.6 115/77 86 20 98RA
General: alert, interactive, oriented x3
HEENT: NCAT,  PERRL. Sclera anicteric, conjunctiva pink. MMM
Lungs: CTAB
CV: RRR, normal S1 and S2, ___ systolic murmur throughout 
precordium, no rubs/gallops
Abdomen: NABS, soft, nondistended, mild chronic ttp in RUQ
GU: foley draining clear urine
Ext: WWP. No edema.
Skin: lumbar surgical site with wound vac in place
Neuro: notable for L sided facial droop (chronic). Bilat upper 
extremity strength ___. Proximal ___ strength ___ bilaterally. 
Distal ___ in L foot and ___ in R foot limited by pain. 

 
Pertinent Results:
ON ADMISSION:
___ 11:30AM BLOOD WBC-17.0*# RBC-3.37* Hgb-9.3* Hct-28.6* 
MCV-85 MCH-27.5 MCHC-32.4 RDW-16.8* Plt ___
___ 11:30AM BLOOD Neuts-79.3* Lymphs-12.4* Monos-7.3 
Eos-1.0 Baso-0.1
___ 11:30AM BLOOD ___ PTT-32.9 ___
___ 11:30AM BLOOD Glucose-127* UreaN-10 Creat-0.6 Na-136 
K-3.9 Cl-94* HCO3-32 AnGap-14
___ 11:30AM BLOOD ALT-11 AST-15 AlkPhos-70 TotBili-0.4
___ 11:30AM BLOOD Albumin-3.5
___ 05:53AM BLOOD Calcium-8.3* Phos-2.2* Mg-1.9
___ 11:37AM BLOOD Type-MIX pO2-33* pCO2-56* pH-7.41 
calTCO2-37* Base XS-8
___ 11:37AM BLOOD Lactate-1.0

Micro:
___ 11:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      NON-FERMENTER, NOT PSEUDOMONAS AERUGINOSA.    >100,000 
ORGANISMS/ML.. 
         sensitivity testing performed by Microscan. 
         SULFA X TRIMETH (>2 MCG/ML).  Cefepime (<=2 MCG/ML). 
      YEAST.    QUANTITATION NOT AVAILABLE. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             NON-FERMENTER, NOT PSEUDOMONAS 
AERUGINOSA
                             |   
CEFEPIME--------------       S
CEFTAZIDIME-----------     2 S
CEFTRIAXONE-----------     8 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     2 S
IMIPENEM--------------   <=1 S
LEVOFLOXACIN----------   =>8 R
MEROPENEM-------------     2 S
PIPERACILLIN/TAZO-----   <=8 S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----       R

___ 11:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___  (___) 
___ @
      12:56 ___.
 
___ C diff: negative
Blood cx NGTD

___ Lumbar MRI w/w/o contrast
Large fluid collection in the posterior elements centered at 
L4-5 extends 
into the posterior epidural space and combined with enhancing 
anterior 
epidural collection results in severe canal narrowing and 
effacement of the thecal sac most prominently inferior to the L5 
vertebral body. Although the enhancing anterior epidural 
collection may represent 
granulation tissue, infection should be considered in the 
appropriate clinical setting. Spine surgery consultation is 
recommended for possible decompression. 

___ Chest X ray AP
Opacification of the right cardiophrenic angle with loss of the 
medial 
diaphragmatic margin is new from previous exams and may 
represent right middle lobe consolidation. A lateral view could 
be useful in assessing this abnormality. 

___ Chest X ray lateral
No acute cardiopulmonary process.

___ cxr
New right lung base opacity, possibly representing pneumonia.

___ TTE
The left atrium is mildly elongated. Left ventricular wall 
thicknesses, cavity size and regional/global systolic function 
are normal (biplane LVEF 62%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened. No masses or vegetations are seen on the 
aortic valve. There is mild aortic valve stenosis (valve area 
1.5 cm2). Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. No mass or vegetation is 
seen on the mitral valve. Trivial mitral regurgitation is seen. 
There is borderline pulmonary artery systolic hypertension. 
There is a small pericardial effusion. 

IMPRESSION: Mild aortic valve stenosis. Mild aortic 
regurgitation. Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function.

Compared with the prior study (images reviewed) of ___ 
severity of aortic regurgitation has increased, though aortic 
valve morphology and the severity of aortic stenosis are 
similar.

If clinically indicated, a TEE is suggested to better define the 
aortic valve morphology. 

___ TEE
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is normal (LVEF>55%). with 
normal free wall contractility. There are simple atheroma in the 
aortic arch. There are simple atheroma in the descending 
thoracic aorta. The aortic valve leaflets (3) are mildly 
thickened. No masses or vegetations are seen on the aortic 
valve, but cannot be fully excluded due to leaflet thickening. 
Mild (1+) aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. No mass or vegetation is seen 
on the mitral valve. Mild (1+) mitral regurgitation is seen. No 
vegetation/mass is seen on the pulmonic valve. There is no 
pericardial effusion. 

IMPRESSION: No vegetations visualized. Mild aortic 
regurgitation. Mild mitral regurgitation. Descending aortic 
atheroma.

Discharge labs:

___ 04:50AM BLOOD WBC-5.9 RBC-2.83* Hgb-7.5* Hct-24.4* 
MCV-86 MCH-26.4* MCHC-30.5* RDW-17.5* Plt ___
___ 04:50AM BLOOD Neuts-56.5 ___ Monos-6.0 Eos-4.6* 
Baso-0.2
___ 05:24AM BLOOD Glucose-125* UreaN-9 Creat-0.5 Na-145 
K-4.2 Cl-107 HCO3-31 AnGap-11
___ 05:24AM BLOOD Calcium-8.7 Phos-4.9* Mg-1.___ yo F with a PMH of spinal fusion (___), COPD, bipolar 
disorder, multiple sclerosis, breast cancer, urinary retention 
who presented with concern for wound infection s/p spinal 
fusion, now s/p wound washout by NSG on ___, wound culture and 
blood cultures growing MSSA.

ACTIVE MEDICAL ISSUES
# MSSA bactremia: due to surgical wound infection s/p spinal 
fusion on ___. Pt underwent washout and tissue cultures 
growing coag + staph aureus. ID on board. Pt currently stable 
with no e/o sepsis. PICC placed. On nafcillin, will need total 
of a 6 week course, started rifampin for synergy ___.  TEE 
showed no vegetation, mild aortic and mitral regurg. Per ID 
started rifampin 300mg bid given hardware, monitor for diarrhea. 
 so far only positive culture is from ___. Last surveillance 
culture was drawn ___. She was discharged with labs for OPAT.

#Diarrhea. Worsened when nafcillin started. Bowel regimen and po 
phosphorous discontinued ___, C. diff negative. ___ copious 
watery diarrhea continued despite 2 doses of loperamide, causing 
hypokalemia and hypernatremia. Diarrhea resolved ___ and 
sodium normalized, then started again overnight. Starting 
rifampin ___ which may worsen diarrhea, would monitor and 
continue symptomatic treatment with loperamide. 

#Spinal fusion: done on ___ c/b wound infection s/p washout 
and tissue cultures growing coag + staph aureus.  neurosurg 
recommended wound vac. Will discharge with wound vac for open 
wound. Continue pain management with oxycontin, tylenol, 
oxycodone and gabapentin 

#Urinary retention: Chronic, likely ___ MS.  ___ negative ___. 
Having suprapubic cramping pain, likely from bladder overflow. 
Per patient, her urologist recommended straight cath 4x day. 

#tobacco abuse. Cravings while here. INcreased patch to 21mg, 
and added 4mg lozenges q1h prn

#Hypernatremia. Likely ___ diarrhea as above. Resolved by 
discharge.

CHRONIC and resolved MEDICAL ISSUES:
 
#Aspiration pneumonitis: Initially patient had o2 requirement 
and possible consolidation on CXR and was treated with vanc/cef. 
___ no respiratory sx, no more o2 requirement and CXR 
improved, abx were discontinued.  Likely was aspiration 
pneumonitis in setting of delerium.

#Toxic Metabolic Encephalopathy: Pt somnolent but arousable on 
exam on admission. Likely multifactoral in setting of infection 
as well as multiple home sedating meds including clonzapam, 
gabapentin, and baclofen. Resolved by ___. Restarted home 
meds given pain. Mental status was at baseline prior to 
discharge.

# COPD: No e/o COPD exacerbation on exam. 
- cont. albuterol/ipratropium nebs 
# bipolar disorder: chronic.
- cont. olanzapine, Duloxetine
#MS:
-cont clonazepam, Baclofen, gabapentin 
# DM: chronic.
- ISS 
# GERD: chronic.
- cont. omeprazole 

# FEN: IVF PRN / replete lytes prn / DM diet
# PPX: heparin sq
# ACCESS: ___
# CODE STATUS: Full (confirmed w/HCP)
# CONTACT:  ___ ___

TRANSITIONAL ISSUES:
-Cont nafcillin and rifampin with OPAT followup, total of 6 
weeks. OPAT will call to arrange followup. Weekly CBC with 
differential, BUN, Cr, AST, ALT, TB, ALK PHOS and esr/crp
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
-loperamide prn diarrhea
-straight cath q6h for urinary retention
-followup with Dr. ___ spinal wound

All questions regarding outpatient parenteral antibiotics after
discharge should be directed to the ___ R.N.s at
___ or to the on-call ID fellow when the clinic is
closed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/headache 
2. Baclofen 10 mg PO TID Spasm 
3. Bisacodyl 10 mg PO/PR DAILY constipation 
4. Cephalexin 500 mg PO Q12H 
5. ClonazePAM 0.5 mg PO TID 
6. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
7. Docusate Sodium 100 mg PO BID 
8. Duloxetine 60 mg PO QHS 
9. Gabapentin 800 mg PO TID 
10. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
11. Glucose Gel 15 g PO PRN hypoglycemia protocol 
12. Heparin 5000 UNIT SC TID 
13. Heparin Flush (10 units/ml) 1 mL IV DAILY and PRN, line 
flush 
14. HydrALAzine 10 mg IV Q6H for SBP > 160 
15. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain 
16. Ipratropium-Albuterol Neb 1 NEB NEB Q6H COPD 
17. Nicotine Patch 14 mg TD DAILY 
18. OLANZapine 10 mg PO QHS 
19. OLANZapine 2.5 mg PO TID:PRN agitation 
20. Omeprazole 40 mg PO DAILY 
21. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Baclofen 10 mg PO TID Spasm 
3. Bisacodyl 10 mg PO/PR DAILY constipation 
4. ClonazePAM 0.25 mg PO TID 
RX *clonazepam 0.25 mg 1 tablet(s) by mouth three times daily 
Disp #*6 Tablet Refills:*0
5. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
6. Duloxetine 60 mg PO QHS 
7. Gabapentin 800 mg PO TID 
8. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
9. Glucose Gel 15 g PO PRN hypoglycemia protocol 
10. Heparin 5000 UNIT SC TID 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H COPD 
12. Nicotine Patch 21 mg TD DAILY 
13. OLANZapine 10 mg PO QHS 
14. Omeprazole 20 mg PO DAILY 
15. Insulin SC 
      Sliding Scale

Fingerstick QACHS, 3AM
Insulin SC Sliding Scale using HUM Insulin
16. LOPERamide 4 mg PO QID diarrhea 
17. Nafcillin 2 g IV Q4H 
18. Nicotine Lozenge 4 mg PO Q1H:PRN craving 
started ___, will need to taper 
19. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
hold for sedation or RR<10 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*10 Tablet Refills:*0
20. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
patient may refuse. hold for sedation or RR<10, do not give 
within one hour of oxycodone 
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth every 12 
hours Disp #*4 Tablet Refills:*0
21. Rifampin 300 mg PO Q12H 
22. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
23. Outpatient Lab Work
Please order weekly CBC with differential, BUN, Cr, AST, ALT, 
TB, ALK PHOS, ESR, CRP
Fax to: ATTN: ___ CLINIC - FAX: ___
ICD-9: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
MSSA BACTERMIA

SECONDARY:
diarrhea
MS
___ 
___ Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your stay at ___. 
You were admitted for an infection at the site of your recent 
back surgery. The infection had spread to your blood. You were 
treated with antibiotics and your symptoms improved. You were 
seen by physical therapy who recommended you go to rehab. You 
will need to complete a total of 6 weeks of IV antibiotics and 
will need to follow up with the infectious disease doctors as 
___ as Dr. ___. 
 
Followup Instructions:
___